US08420817B2
F.2 Methyl 4-(3,5-dinitropyridin-2-ylamino)-2-phenylbutyrate
A procedure similar to the method described in step C.1 is carried out, starting from 0.8 g (3.93 mmol) of 2-chloro-3,5-dinitropyridine and 1 g (4.32 mmol) of methyl 4-amino-2-phenylbutyrate. This gives 1.1 g of expected product.

reactant | 2-chloro-3,5-dinitropyridine | 3.93 mmol, 0.8 g | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | methyl 4-amino-2-phenylbutyrate | 4.32 mmol, 1 g | NCCC(C(=O)OC)C1=CC=CC=C1 | C11H15NO2
product | Methyl 4-(3,5-dinitropyridin-2-ylamino)-2-phenylbutyrate | 1.1 g | [N+](=O)([O-])C=1C(=NC=C(C1)[N+](=O)[O-])NCCC(C(=O)OC)C1=CC=CC=C1 | C16H16N4O6
